US07361677B2
Sulfamic acid 2-chloro-5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-methyl}-phenyl ester (CAB02176, STX559)
Sulphamoyl chloride solution in toluene (3 mL, 0.7 M, 2.1 mmol) was concentrated under reduced pressure (30° C. water bath temperature) to ca. 0.5 mL volume. The residue was cooled to 0° C. (ice bath) and N,N-dimethylacetamide (5 mL) was added. 4-[(4-Chloro-3-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02141, 200 mg, 0.614 mmol) was added to the colourless solution and the mixture was stirred for 18 hours at room temperature. Ethyl acetate (50 mL) and water (30 mL) were added to the solution, the organic layer was separated, washed with water (2×30 mL) and brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in a small amount of acetone and precipitated by addition of diethyl ether and hexane. The precipitate was filtered off and dried under high vacuum. Yield: 136 mg (55%) white powder. 1H-NMR (400 MHz, d6-DMSO) δ=5.11 (s, 2H), 6.75 (d, J=9.0 Hz, 2H), 7.25 (dd, J=8.2, 2.0 Hz, 1H), 7.46 (d, J=2.0 Hz, 1H), 7.54 (d, J=8.2 Hz, 1H), 7.77 (d, J=9.0 Hz, 2H), 8.32 (s, 2H, —NH2), 8.82 (s, 2H). LRMS (FAB+): 87.0 (100), 404.9 (40, [M+H]+). HRMS (FAB+): 405.05338 C16H14N6O3SCl requires 405.053663.

reactant | Sulphamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | toluene | 2.1 mmol, 0.7 M, 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-[(4-Chloro-3-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 0.614 mmol, 200 mg | ClC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)O | C16H12ClN5O
solvent | water | 30 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | Sulfamic acid 2-chloro-5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-methyl}-phenyl ester | ClC1=C(C=C(C=C1)CN(N1C=NN=C1)C1=CC=C(C=C1)C#N)OS(N)(=O)=O | C16H13ClN6O3S
